US04227000
Ethyl 3-(3,4,5-trimethoxyphenyl)propionate was reacted with ethyl formate and sodium hydride in 1,2-dimethoxyethane to give crude ethyl 2-formyl-3-(3,4,5-trimethoxyphenyl)-propionate in 44% yield.

reactant | Ethyl 3-(3,4,5-trimethoxyphenyl)propionate | COC=1C=C(C=C(C1OC)OC)CCC(=O)OCC | C14H20O5
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | ethyl 2-formyl-3-(3,4,5-trimethoxyphenyl)-propionate | 44% yield | C(=O)C(C(=O)OCC)CC1=CC(=C(C(=C1)OC)OC)OC | C15H20O6
